US04228167
To a phenylmagnesium bromide solution prepared from 6.9 g of p-chlorophenyl bromide, 0.88 g of magnesium and 25 ml of dry diethyl ether was added dropwise a solution of 2.42 g of 10-methyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline-5-one in 30 ml of dry tetrahydrofuran with stirring and ice-cooling. The mixture was heated under reflux for 2 hours and then cooled. To the mixture were added dropwise 20 ml of water and stirring was continued for a while. The resulting mixture was extracted with hot chloroform and the insoluble material was filtered off and washed with hot chloroform. The chloroform layer was dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The residue was crystallized from ethanol and the crystals were further recrystallized from dimethylformamide to give 1.0 g of 5-(p-chlorophenyl)-5-hydroxy-10-methyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline as colorless needles, m.p. 207°-209° C. (decomp.).

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | p-chlorophenyl bromide | 6.9 g | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | magnesium | 0.88 g | [Mg] | Mg
reactant | 10-methyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline-5-one | 2.42 g | CN1C=2N(C(C3=CC=CC=C13)=O)CCN2 | C11H11N3O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 5-(p-chlorophenyl)-5-hydroxy-10-methyl-2,3,5,10-tetrahydroimidazo[2,1-b]quinazoline | 1.0 g | ClC1=CC=C(C=C1)C1(N2C(N(C3=CC=CC=C13)C)=NCC2)O | C17H16ClN3O
